US05712300
Preparation of N-Hydroxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A mixture of N-benzyloxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (80 mg, 0.19 mmol), Pd/C (10%, 5 mg), ammonium formate (59 mg, 0.95 mmol) and EtOH (2.5 mL) is stirred at room temperature. After 2 hours, a second portion of ammonium formate (35 mg, 0.56 mmol) is added and the mixture is allowed to stir overnight at room temperature. The mixture is filtered, and the filter cake washed with MeOH (3×15 mL) and CHCl3 (3×15 mL). The filtrate is concentrated, reconstituted in 100 mL of 5% MeOH/CHCl3, dried (MgSO4), filtered and concentrated to an oil. Crystallization from CH2Cl2 /Et2 O/hexane gives 19 mg (31%) of the title compound as a white solid (mp 136°-137° C.).

reactant | N-benzyloxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.19 mmol, 80 mg | C(C1=CC=CC=C1)ONC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O | C25H30N2O4
reactant | ammonium formate | 0.95 mmol, 59 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 0.56 mmol, 35 mg | C(=O)[O-].[NH4+]
catalyst | Pd/C | 5 mg | [Pd] | Pd
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | N-Hydroxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 19 mg, 31% | ONC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O | C18H24N2O4
